US07132425B2
A solution of 2-amino-5-bromopyrazine (1.16 g, 6.67 mmol) and 2-methoxyphenylboronic acid (1.17 g, 7.70 mmol) in N,N-dimethylformamide (15 mL) was treated with tetrakis(triphenylphosphine)palladium(0) (193 mg, 0.17 mmol) and potassium carbonate (1.87 g, 13.34 mmol). The mixture was heated at 110° C. overnight. The reaction mixture was extracted with chloroform and water. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 2/1 ethyl acetate/hexanes (2/1 ratio) afforded 5-(2-methoxy-phenyl)-pyrazin-2-ylamine (210 mg, 16%).

reactant | 2-amino-5-bromopyrazine | 6.67 mmol, 1.16 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 2-methoxyphenylboronic acid | 7.70 mmol, 1.17 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 13.34 mmol, 1.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 mmol, 193 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-methoxy-phenyl)-pyrazin-2-ylamine | 210 mg, 16% | COC1=C(C=CC=C1)C=1N=CC(=NC1)N | C11H11N3O
